US04163104
A mixture of 2.66 grams (8.42 m moles) of 7-chloro-3-methyl-2-(methylthio)-5-phenyl-3H-1,3,4-benzotriazepine, 1.0 grams (9.32 m moles) of aminoacetaldehyde dimethyl acetal (98%), and 10 ml of 2-ethoxyethanol was stirred and refluxed under nitrogen for about 18 hours. The solvent was removed in vacuo on a rotary evaporator, and the residue was dissolved in diethyl ether. The resulting solution was washed in water, dried with magnesium sulfate and concentrated in vacuo. The dark residue was found to be a mixture and was chromatographed on a column containing 170 grams of alumina. The column was washed with benzene. The desired dimethoxyethylamino-1,3,4-benzotriazepine intermediate was obtained on elution with successive portions of methylene chloride and chloroform. The reactions were combined and evaporated to yield a red viscous oil.

reactant | 7-chloro-3-methyl-2-(methylthio)-5-phenyl-3H-1,3,4-benzotriazepine | 2.66 grams | ClC=1C=CC2=C(C(=NN(C(=N2)SC)C)C2=CC=CC=C2)C1 | C16H14ClN3S
reactant | aminoacetaldehyde dimethyl acetal | 1.0 grams | COC(CN)OC | C4H11NO2
solvent | 2-ethoxyethanol | 10 ml | C(C)OCCO | C4H10O2
product | dimethoxyethylamino-1,3,4-benzotriazepine | COC(CNC=1NC2=C(C=NN1)C=CC=C2)OC | C12H16N4O2
